US06756359B2
To a solution of 4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)-pentan-1-ol (1 eq) in THF (20 mL) was added dropwise diethyl azodicarboxylate (1.1 eq), triphenyl phosphine (1.1 eq) and phtalimide (1.1 eq). The yellow solution was stirred at room temperature overnight and the solution was concentrated. The crude product was directly purified by flash chromatography using a solvent gradient of 97% DCM, 3% MeOH and 0.1% TEA to yield 2-[4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)-pentyl]-isoindole-1,3-dione (66%). MH+(375).

reactant | 4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)-pentan-1-ol | 1 eq | CC(CCCO)(C)N1C=NC(=C1)C=1C=NC=CC1 | C14H19N3O
reactant | diethyl azodicarboxylate | 1.1 eq | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenyl phosphine | 1.1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phtalimide | 1.1 eq | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)-pentyl]-isoindole-1,3-dione | 66% | CC(CCCN1C(C2=CC=CC=C2C1=O)=O)(C)N1C=NC(=C1)C=1C=NC=CC1 | C22H22N4O2
